US04232166
E-4-Methyl-5-methylene-4-trimethylsilyloxy-1-tri-n-butylstannyl-1-octene
A mixture of 26 g. of 4-methyl-5-methylene-4-trimethylsilyloxy-1-octyne, 200 mg. of azoisobutyrylnitrile and 41.1 g. of tri-n-butylstannane is stirred under argon in an oil bath at 140° C. The mixture is stirred at 140°-150° C. for one hour under argon, then at 140°-150° C. for 1.5 hours under vacuum to remove excess tri-n-butylstannane. The residue is distilled via a Kugelrohr (150° C., 0.05 mm.) giving the desired product as a colorless liquid.

reactant | 4-methyl-5-methylene-4-trimethylsilyloxy-1-octyne | CC(CC#C)(C(CCC)=C)O[Si](C)(C)C | C13H24OSi
reactant | tri-n-butylstannane | C(CCC)[SnH](CCCC)CCCC
product | E-4-Methyl-5-methylene-4-trimethylsilyloxy-1-tri-n-butylstannyl-1-octene | CC(C/C=C/[Sn](CCCC)(CCCC)CCCC)(C(CCC)=C)O[Si](C)(C)C | InChI=1S/C13H25OSi.3C4H9.Sn/c1-8-10-12(3)13(4,11-9-2)14-15(5,6)7;3*1-3-4-2;/h2,9H,3,8,10-11H2,1,4-7H3;3*1,3-4H2,2H3;
